US08404859B2
A solution of (S)-3-tert-Butoxycarbonylamino-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester (150 mg, 0.305 mmol) in 4M HCl in dioxane (6 mL, 24 mmol) was stirred at 25° C. for 2 h. The reaction mixture was concentrated under reduced pressure. To the reaction solid was added ethyl ether (2×50) followed by concentrating under reduced pressure to give a white solid, which was dissolved in the anhydrous DMF (6 mL). To this solution was added HBTU (174 mg, 0.459 mmol), HOBt (61 mg, 0.451 mmol), 3,5-difluorobenzoic acid (60 mg, 0.379 mmol) and triethylamine (0.16 mL, 1.148 mmol). The solution was allowed to stir at 25° C. for 2 h and concentrated under reduced pressure to remove most of the DMF. The reaction was then diluted with ethyl acetate (100 mL), washed with water (20 mL), followed by aqueous 1N HCl (20 mL) and then brine (20 mL). The organic layer was dried over MgSO4, filtered and concentrated under reduced pressure. The resulting crude compound was purified by flash chromatography (40%-100% EtOAc in hexanes) to give (S)-3-(3,5-Difluoro-benzoylamino)-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester (92.5 mg, 57%) as a white foam. MS m/e 533.5 (M+H+).

reactant | (S)-3-tert-Butoxycarbonylamino-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester | 0.305 mmol, 150 mg | COC([C@H](CNC(=O)OC(C)(C)C)NC(=O)C1=C(N=C(S1)NC(CC1=CC(=CC=C1)O)=O)C)=O | C22H28N4O7S
reactant | dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | HBTU | 0.459 mmol, 174 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.451 mmol, 61 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,5-difluorobenzoic acid | 0.379 mmol, 60 mg | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
reactant | triethylamine | 1.148 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | HCl | 4M | Cl | ClH
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | (S)-3-(3,5-Difluoro-benzoylamino)-2-({2-[2-(3-hydroxy-phenyl)-acetylamino]-4-methyl-thiazole-5-carbonyl}-amino)-propionic acid methyl ester | 92.5 mg, 57% | COC([C@H](CNC(C1=CC(=CC(=C1)F)F)=O)NC(=O)C1=C(N=C(S1)NC(CC1=CC(=CC=C1)O)=O)C)=O | C24H22F2N4O6S
